### PR TITLE
[Merged by Bors] - chore(RingTheory/PowerSeries): golf `coeff_one_pow` using `ring`

### PR DESCRIPTION
**Pull request by euprunin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/Basic.lean [hunk 1]
```diff
@@ -697,9 +697,7 @@ lemma coeff_one_pow (n : ℕ) (φ : R⟦X⟧) :
             conv => enter [1, 2, 1, 1, 2]; rw [← pow_one (a := constantCoeff φ)]
             rw [← pow_add (a := constantCoeff φ)]
             conv => enter [1, 2, 1, 1]; rw [Nat.sub_add_cancel h']
-            conv => enter [1, 2, 1]; rw [mul_comm]
-            rw [mul_assoc, ← one_add_mul, add_comm, mul_assoc]
-            conv => enter [1, 2]; rw [mul_comm]
+            grobner
```
Comment (hrmacbeth) [inline Mathlib/RingTheory/PowerSeries/Basic.lean]:
```suggestion
            ring
````
since no hypotheses are being used.

Comment (euprunin) [reply Mathlib/RingTheory/PowerSeries/Basic.lean]: @hrmacbeth Thanks for reviewing! Suggestion applied.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
